US05525608
Preparation of 2-Methoxyphenylboronic acid
To a stirred, cold (-78° C.) solution of 2-iodoanisole (2.85 ml, 5.6 g) in 50 ml of tetrahydrofuran under nitrogen was added 10.0 ml of 2.5M n-butyl lithium in hexane. After 15 min. triisopropyl borate (3.38 ml, 4.7 g) was added and the reaction was allowed to come to and remain at room temperature for 1.5 hr. The mixture was poured into an excess of 2N hydrochloric acid and diethyl ether was added. The resulting mixture was stirred vigorously for 30 min. and the phases were separated. The ether layer was washed with aqueous sodium bisulfite until colorless and then with saturated sodium chloride solution and then dried over magnesium sulfate. Concentration of the ether layer gave the crude boronic acid which crystallized from ether to give the title product.

reactant | 2-iodoanisole | 2.85 ml, 5.6 g | IC1=C(C=CC=C1)OC | C7H7IO
reactant | n-butyl lithium | 2.5M, 10.0 ml | C(CCC)[Li]
reactant | triisopropyl borate | 3.38 ml, 4.7 g | B(OC(C)C)(OC(C)C)OC(C)C | C9H21BO3
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | diethyl ether | C(C)OCC | C4H10O
product | 2-Methoxyphenylboronic acid | COC1=C(C=CC=C1)B(O)O | C7H9BO3
